US06900353B2
Preparation of 1-cyclopent-1-enyl-4-phenylbenzene
1-(4-Phenylphenyl)cyclopentan-1-ol (7.50 g, 31.5 mmol), p-toluenesulfonic acid (650 mg) and toluene (200 mL) were mixed together in a 500 mL 3 neck flask fitted with a thermometer and Dean Stark trap and stirred at reflux for 4 hours under a nitrogen atmosphere. The reaction was then allowed to cool to room temperature and concentrated under reduced vacuum. The resulting semi-solid was taken into methylene chloride, washed once with water, dried over potassium carbonate, filtered, and concentrated under reduced vacuum to yield 7.73 g as a solid. This material was purified via silica gel chromatography employing the Water's Prep 2000 and eluting with a solvent of hexane/methylene chloride 4:1 to yield the intermediate title compound (4.71 g, 68%) as a white solid. Fd M.S. 220.1 (M*).

reactant | 1-(4-Phenylphenyl)cyclopentan-1-ol | 31.5 mmol, 7.50 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C1(CCCC1)O | C17H18O
reactant | p-toluenesulfonic acid | 650 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-cyclopent-1-enyl-4-phenylbenzene | 4.71 g, 68% | C1(=CCCC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H16
